US03981908
Propylene and oxygen were introduced, in the manner described in Example 1, into a solution of 500 ml glacial acetic acid and 50 ml acetic anhydride containing 2 g aluminum acetate and 2 g cupric chloride. The contents were then heated to approximately 150°C. After cooling and release of pressure, the contents were subjected to distillation. 30.6 g propylene glycol diacetate were obtained.

reactant | Propylene | C=CC | C3H6
reactant | oxygen | O=O | O2
reactant | acetic anhydride | 50 ml, 2 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
product | propylene glycol diacetate | 30.6 g | C(C)(=O)OCC(C)OC(C)=O | C7H12O4
